US04851526
1-[2-(3,4-Dimethoxyphenyl)ethyl]azetidin-3-ol
In a manner similar to Preparation 73, react azetidin-3-ol with 1-bromo-2-(3,4-dimethoxyphenyl)ethane to obtain the title compound.

reactant | azetidin-3-ol | N1CC(C1)O | C3H7NO
reactant | 1-bromo-2-(3,4-dimethoxyphenyl)ethane | BrCCC1=CC(=C(C=C1)OC)OC | C10H13BrO2
product | 1-[2-(3,4-Dimethoxyphenyl)ethyl]azetidin-3-ol | COC=1C=C(C=CC1OC)CCN1CC(C1)O | C13H19NO3
